US09371320B2
B) 4-(1-((3-methyloxetan-3-yl)methyl)-4-oxo-4,5-dihydro-1H-pyrazolo[4,3-c]pyridin-3-yl)thiophene-2-carboxamide
To a solution of 4-(4-oxo-4,5-dihydro-1H-pyrazolo[4,3-c]pyridin-3-yl)thiophene-2-carboxamide (60.0 mg) in DMF (3 mL) was added sodium hydride (60% dispersion in mineral oil, 23.0 mg), and the mixture was stirred at room temperature for 1 hr. To the reaction mixture was added (3-methyloxetan-3-yl)methyl 4-methylbenzenesulfonate (148 mg), and the mixture was stirred overnight at room temperature. The reaction mixture was extracted with water and ethyl acetate, and the organic layer was washed with saturated brine, dried over anhydrous magnesium sulfate, filtered, and concentrated under reduced pressure. The obtained residue was purified by silica gel column chromatography (basic silica gel, ethyl acetate/methanol) to give the title compound (2.3 mg).

reactant | 4-(4-oxo-4,5-dihydro-1H-pyrazolo[4,3-c]pyridin-3-yl)thiophene-2-carboxamide | 60.0 mg | O=C1NC=CC2=C1C(=NN2)C=2C=C(SC2)C(=O)N | C11H8N4O2S
reactant | sodium hydride | 23.0 mg | [H-].[Na+]
reactant | (3-methyloxetan-3-yl)methyl 4-methylbenzenesulfonate | 148 mg | CC1=CC=C(C=C1)S(=O)(=O)OCC1(COC1)C | C12H16O4S
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
product | 4-(1-((3-methyloxetan-3-yl)methyl)-4-oxo-4,5-dihydro-1H-pyrazolo[4,3-c]pyridin-3-yl)thiophene-2-carboxamide | 2.3 mg | CC1(COC1)CN1N=C(C=2C(NC=CC21)=O)C=2C=C(SC2)C(=O)N | C16H16N4O3S
